US07786165B2
methyl 4-{[4-(2,6-dimethylphenoxy)piperidin-1-yl]methyl}-3-isopropoxybenzoate
To a solution of methyl 4-[(4-hydroxypiperidin-1-yl)methyl]-3-isopropoxybenzoate (0.72 g, 2.34 mmol), 2,6-dimethylphenol (0.43 g, 3.51 mmol) and tributylphosphine (0.88 mL, 3.51 mmol) in anhydrous tetrahydrofuran (14 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.89 g, 3.51 mmol), and the mixture was stirred at room temperature for 12 hr. To the reaction mixture were added reagents (2,6-dimethylphenol, tributylphosphine and 1,1′-(azodicarbonyl)dipiperidine) in the same amount as mentioned above, and the mixture was further stirred for 12 hr. Diethyl ether (40 mL) was added to the reaction solution, the precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give the title compound (0.35 g, yield 36%) as a colorless oil.

reactant | methyl 4-[(4-hydroxypiperidin-1-yl)methyl]-3-isopropoxybenzoate | 2.34 mmol, 0.72 g | OC1CCN(CC1)CC1=C(C=C(C(=O)OC)C=C1)OC(C)C | C17H25NO4
reactant | 2,6-dimethylphenol | 3.51 mmol, 0.43 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | tributylphosphine | 3.51 mmol, 0.88 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.51 mmol, 0.89 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | 40 mL | C(C)OCC | C4H10O
product | methyl 4-{[4-(2,6-dimethylphenoxy)piperidin-1-yl]methyl}-3-isopropoxybenzoate | 0.35 g, yield 36% | CC1=C(OC2CCN(CC2)CC2=C(C=C(C(=O)OC)C=C2)OC(C)C)C(=CC=C1)C | C25H33NO4
